US08648089B2
6-(6-(3-aminophenyl)-3-(4-methoxyphenyl)-1H-indol-1-yl)-N-methylpyrimidin-4-amine
Methanol/DMF (1:1, 20 mL) was added to 6-(3-(4-methoxyphenyl)-6-(3-nitrophenyl)-1H-indol-1-yl)-N-methylpyrimidin-4-amine (100 mg, 0.22 mmol) and Raney nickel (about 50 mg). The mixture was stirred at room temperature for 24 hours under hydrogen gas (1 atm). The reaction solution was filtered using a diatomite pad and then concentrated under reduced pressure. The target compound was obtained as brown solid.

reactant | 6-(3-(4-methoxyphenyl)-6-(3-nitrophenyl)-1H-indol-1-yl)-N-methylpyrimidin-4-amine | 0.22 mmol, 100 mg | COC1=CC=C(C=C1)C1=CN(C2=CC(=CC=C12)C1=CC(=CC=C1)[N+](=O)[O-])C1=CC(=NC=N1)NC | C26H21N5O3
catalyst | Raney nickel | about 50 mg | [Ni] | Ni
solvent | Methanol DMF | 20 mL | CO.CN(C)C=O
product | 6-(6-(3-aminophenyl)-3-(4-methoxyphenyl)-1H-indol-1-yl)-N-methylpyrimidin-4-amine | NC=1C=C(C=CC1)C1=CC=C2C(=CN(C2=C1)C1=CC(=NC=N1)NC)C1=CC=C(C=C1)OC | C26H23N5O
